US09119868B2
Step 6: 5-Cyclopropyl-6-(N-(3-fluoro-5-((methoxymethoxy)methyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide
A mixture of 6-(N-(4-bromo-3-fluoro-5-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide (300 mg, 0.462 mmol), bis(pinacolato)diboron (293 mg, 1.155 mmol), potassium acetate (181 mg, 1.848 mmol) and PdCl2(dppf)-CH2Cl2 adduct (37.7 mg, 0.046 mmol) in 1,4-dioxane (4.0 mL) was stirred under N2 at 90° C. in a sealed tube overnight. The mixture was cooled to room temperature, diluted with EtOAc, filtered through a pad of silica gel and Celite® and then concentrated to dryness to give the crude product (306 mg) (68% of the title compound, 26% of deborylation by-product) which was used for the next step without further purification. LCMS (m/z, ES+)=697 (M+H+).

reactant | 6-(N-(4-bromo-3-fluoro-5-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 0.462 mmol, 300 mg | BrC1=C(C=C(C=C1COCOC)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)F | C29H27BrF2N2O6S
reactant | bis(pinacolato)diboron | 1.155 mmol, 293 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.848 mmol, 181 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.046 mmol, 37.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 5-Cyclopropyl-6-(N-(3-fluoro-5-((methoxymethoxy)methyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)methylsulfonamido)-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 306 mg | C1(CC1)C=1C(=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C1)N(S(=O)(=O)C)C1=CC(=C(C(=C1)COCOC)B1OC(C(O1)(C)C)(C)C)F | C35H39BF2N2O8S
